US08614206B2
Sodium hydride (255 mg, 6.38 mmol) was added portionwise to DMSO (15 mL) at 0° C. The reaction mixture was warmed to room temperature and stirred for 15 min before trimethyl sulfoxonium iodide (1.34 g, 6.09 mmol) was added. After stirring at 90 min at room temperature, a solution of 1-(1-methyl-4-nitro-1H-pyrazol-5-yl)piperidin-4-one (1.3 g, 5.80 mmol) in DMSO (15 mL) was added. The mixture was heated at 55° C. for 2 hr, then poured into water (200 mL) and extracted with EtOAc (3×80 mL). The combined organic layers were dried over MgSO4 and concentrated under reduced pressure to give 6-(1-methyl-4-nitro-1H-pyrazol-5-yl)-1-oxa-6-azaspiro[2.5]octane as an orange liquid. To a solution of this liquid (1.38 g, 5.80 mmol) in MeOH (25 mL) and water (5 mL) was added ammonium chloride (768 mg, 14.4 mmol) followed by sodium azide (1.9 g, 29.2 mmol). The reaction mixture was heated at 70° C. for 18 hr, allowed to cool to room temperature and the MeOH removed under reduced pressure. The residue was diluted with water (20 mL) and extracted with EtOAc (150 mL). The organic layer was washed with water (20 mL) and brine (20 mL), separated, dried over MgSO4 and concentrated under reduced pressure. Purification via silica gel column chromatography (50-75% EtOAc/isohexane) gave 4-(azidomethyl)-1-(1-methyl-4-nitro-1H-pyrazol-5-yl)piperidin-4-ol as yellow oil (1.03 g, 63% over two steps). 1H NMR (400 MHz, CDCl3) δ 8.03 (s, 1H), 3.76 (s, 3H), 3.64-3.54 (m, 2H), 3.42 (s, 2H), 3.05-2.96 (m, 2H), 1.92 (s, 1H), 1.81-1.77 (m, 4H).

reactant | Sodium hydride | 6.38 mmol, 255 mg | [H-].[Na+]
reactant | trimethyl sulfoxonium iodide | 6.09 mmol, 1.34 g | [I-].C[S+](=O)(C)C
reactant | 1-(1-methyl-4-nitro-1H-pyrazol-5-yl)piperidin-4-one | 5.80 mmol, 1.3 g | CN1N=CC(=C1N1CCC(CC1)=O)[N+](=O)[O-] | C9H12N4O3
reactant | water | 200 mL | O | H2O
solvent | DMSO | 15 mL | CS(=O)C | C2H6OS
solvent | DMSO | 15 mL | CS(=O)C | C2H6OS
product | 6-(1-methyl-4-nitro-1H-pyrazol-5-yl)-1-oxa-6-azaspiro[2.5]octane | CN1N=CC(=C1N1CCC2(CO2)CC1)[N+](=O)[O-] | C10H14N4O3
